US07645755B2
h) 5-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-tetrahydro-pyran-4-yl)-phenyl]-amide
To a suspension of 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (0.550 g, 1.38 mmol, as prepared in the previous step) in 20 mL THF at −40° C. was added i-PrMgCl (1.40 mL, 2 M in THF) and the solution was then warmed to 0° C. and stirred for 10 min. The solution was then cooled to −78° C. and t-BuLi (2.15 mL, 1.7 M in pentane) was added dropwise over 5 min and then tetrahydropyran-4-one (0.650 mL, 7.05 mmol) was added immediately thereafter. After 5 min at −78° C. the reaction was quenched with satd NH4Cl (20 mL) and extracted with EtOAc (3×20 mL) and dried over Na2SO4. The title compound was purified by flash chromatography (silica gel) eluting with 50% EtOAc/DCM to give 0.46 g (79%) of a white solid: 1H-NMR (400 MHz, DMSO-d6) δ 14.28 (s, 1H), 9.77 (s, 1H), 8.21 (s, 1H), 7.98 (d, J=8.5 Hz, 1H), 7.38 (dd, J=8.5, 2.2 Hz, 1H), 7.34 (d, J=2.2 Hz, 1H), 5.67 (m, 1H), 5.03 (s, 1H), 3.83-3.66 (m, 4H), 2.31-2.22 (m, 2H), 2.04-1.92 (m, 4H), 1.58-1.46 (m, 4H), 1.01 (s, 6H). Mass spectrum (ESI, m/z) calcd. for C24H28N4O3 421.2 (M+H), found 421.1.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | BrC1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C19H19BrN4O
reactant | i-PrMgCl | 2 M, 1.40 mL | C(C)(C)[Mg]Cl
reactant | t-BuLi | 1.7 M, 2.15 mL | [Li]C(C)(C)C
reactant | tetrahydropyran-4-one | 7.05 mmol, 0.650 mL | O1CCC(CC1)=O | C5H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-tetrahydro-pyran-4-yl)-phenyl]-amide | 0.46 g, 79% | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCOCC1)O)NC(=O)C=1NC(=CN1)C#N)C | C24H28N4O3
